US09029399B2
Preparation of 1-(6-chloropyrimidin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (10A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 120 mg, 0.591 mmol) was reacted with 4,6-dichloropyrimidine (88.07 mg, 0.591 mmol), 1,4-dioxane (5 mL), copper iodide (11.21 mg, 0.059 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (8.39 mg, 0.059 mmol) and potassium phosphate (375.96 mg, 1.77 mmol) to afford the crude product. Purification by column chromatography on silica gel (0.5% methanol in CHCl3) afforded 15.3 mg of the product (9% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.591 mmol, 120 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 4,6-dichloropyrimidine | 0.591 mmol, 88.07 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.059 mmol, 8.39 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.77 mmol, 375.96 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.059 mmol, 11.21 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(6-chloropyrimidin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 15.3 mg, 9% yield | ClC1=CC(=NC=N1)N1C(N(CC1)C=1C=NC=CC1C1CC1)=O | C15H14ClN5O
